US07713979B2
3-(2,4-Dichloro-benzyl)-pyrrolidin-2-one
Charge a flask with 1-trimethylsilanyl-pyrrolidin-2-one (5.0 g, 32 mmol), dissolve in THF (150 mL) and cool to −78° C. under nitrogen. Add LDA (2M, 19 mL, 38 mmol) and stir at −78° C. for 10 minutes. Add 2,4-dichloro-1-chloromethyl-benzene (8.1 g, 41 mmol) and warm to room temperature. Pour into water after 2 hours and extract with methylene chloride. Dry over sodium sulfate, filter and concentrate. Purify the residue over silica gel (1:1 hexanes:ethylacetate to 100% ethyl acetate) to afford 5.2 g (67%) of the title compound as a white solid. 1H NMR (CDCl3) δ 7.38 (d, 1H), 7.23 (d, 1H), 7.18 (dd, 1H), 6.01 (bs, 1H), 3.31 (m, 3H), 2.75 (m, 2H), 2.13 (m, 1H), 1.84 (m, 1H).

reactant | 1-trimethylsilanyl-pyrrolidin-2-one | 32 mmol, 5.0 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
reactant | LDA | 38 mmol, 2M, 19 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2,4-dichloro-1-chloromethyl-benzene | 41 mmol, 8.1 g | ClC1=C(C=CC(=C1)Cl)CCl | C7H5Cl3
reactant | water | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-(2,4-Dichloro-benzyl)-pyrrolidin-2-one | 5.2 g, 67% | ClC1=C(CC2C(NCC2)=O)C=CC(=C1)Cl | C11H11Cl2NO
